US06051586
EXAMPLE 94 1-(4-Amino-phenyl)-3-(3-cyclohexyl-propyl)-1,3-dihydro-imidazol-2-one
1-(3-Cyclohexyl-propyl)-3-(4-nitro-phenyl)-1,3-dihydro-imidazol-2-one (15.4 g, 46.8 mmol) and tin chloride dihydrate (53.0 g, 234.5 mmol, 5.0 equiv) were combined in ethanol and heated at 70° C. for two hours. The mixture was cooled to 25° C. and poured onto ice (500 mL). The aqueous mixture was adjusted to pH=8 with 1 N aqueous sodium hydroxide solution. The aqueous phase was extracted with ethyl acetate (3×). The combined organic phase was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated in vacuo to an orange solid (13.4 g, 95%). Mp 83-85° C.; 1H NMR (CDCl3, 300 MHz) δ 7.26 (d, 8.5 Hz, 2 H), 6.64 (d, 8.5 Hz, 2 H), 6.40 (d, 2.9 Hz, 1 H), 6.24 (d, 2.9 Hz, 1 H), 3.70 (br s, 2 H), 3.57 (t, 7.4 Hz, 2 H), 1.64 (m, 7 H), 1.19 (m, 6 H), 0.85 (m, 2 H); MS (CI) m/z 300 (MH+); Rf =0.24 (50:50 hexane/ethyl acetate).

reactant | 1-(3-Cyclohexyl-propyl)-3-(4-nitro-phenyl)-1,3-dihydro-imidazol-2-one | 46.8 mmol, 15.4 g | C1(CCCCC1)CCCN1C(N(C=C1)C1=CC=C(C=C1)[N+](=O)[O-])=O | C18H23N3O3
reactant | tin chloride dihydrate | 234.5 mmol, 53.0 g, 5.0 equiv | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-(4-Amino-phenyl)-3-(3-cyclohexyl-propyl)-1,3-dihydro-imidazol-2-one | NC1=CC=C(C=C1)N1C(N(C=C1)CCCC1CCCCC1)=O | C18H25N3O
